US07320995B2
B. N-[methyl] N-[methoxyl] 3,4-diaminobenzamide
Add 18.0 g of 10% weight Pd/C catalyst to a solution of N-[methyl] N-[methoxy] 3,4-dinitrobenzamide (182 g, 0.712 moles) in 900 mL tetrahydrofuran and 900 mL ethanol under a nitrogen atmosphere. Hydrogenate at room temperature for 6 hours under 60 p.s.i. Filter the mixture through Celite® and concentrate the filtrate under reduced pressure. Suspend the residue in 500 mL dichloromethane, concentrate under reduced pressure and dry the residue under reduced pressure to provide 135 g (97%) of the desired compound.

reactant | N-[methyl] N-[methoxy] 3,4-dinitrobenzamide | 0.712 moles, 182 g | CN(C(C1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])=O)OC | C9H9N3O6
catalyst | Pd/C | [Pd] | Pd
solvent | tetrahydrofuran | 900 mL | O1CCCC1 | C4H8O
solvent | ethanol | 900 mL | C(C)O | C2H6O
product | N-[methyl] N-[methoxyl] 3,4-diaminobenzamide | 135 g, 97% | CN(C(C1=CC(=C(C=C1)N)N)=O)OC | C9H13N3O2
